US08183246B2
6-{[6-Bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester
Dissolve 4.1 g (11.1 mmol) 6-{[5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester at room temperature in 150 ml carbon tetrachloride and add 2.2 g (12.2 mmol) N-bromosuccinimide. Stir the mixture under reflux for three hours, then filter after cooling to room temperature and concentrate the filtrate by vacuum evaporation. 4.8 g (96% of theor.) of the title compound is obtained.

reactant | 6-{[5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 11.1 mmol, 4.1 g | COC(CCCCCNC=1C2=C(N=CN1)OC=C2C2=CC=C(C=C2)OC)=O | C20H23N3O4
reactant | N-bromosuccinimide | 12.2 mmol, 2.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-{[6-Bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)Br)=O | C20H22BrN3O4
